US06686352B2
a) 5,7-Dihydro-9,10-dimethyl-2-propyl-6H-pyrimido[5,4-d]benzazepine-6-one
Analogous to Scheme 1, from 4-[(dimethylamino)methylene]-3,4-dihydro-7,8-dimethyl-1H-benzazepine-2,5-dione and butyramidine hydrochloride. Yield: 67%.

reactant | 4-[(dimethylamino)methylene]-3,4-dihydro-7,8-dimethyl-1H-benzazepine-2,5-dione | CN(C)C=C1CC(NC2=C(C1=O)C=C(C(=C2)C)C)=O | C15H18N2O2
reactant | butyramidine hydrochloride | Cl.C(CCC)(=N)N
product | 5,7-Dihydro-9,10-dimethyl-2-propyl-6H-pyrimido[5,4-d]benzazepine-6-one | Yield: 67% | CC1=CC2=C(C3=C(CC(N2)=O)C=NC(=N3)CCC)C=C1C | C17H19N3O
